US09216980B2
3-(Oxazol-2-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A solution of 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (101 mg, 0.369 mmol) and lithium chloride (46.9 mg, 1.11 mmol) in DMF (0.63 mL) was treated with DIPEA (161 μL, 0.922 mmol) and 2-(tri-n-butylstannyl)oxazole (232 μL, 1.11 mmol), and then degassed by the bubbling of nitrogen for 5 minutes. Tetrakis(triphenylphosphine)palladium(0) (21.3 mg, 18.4 μmol, 5.0 mol %) was added and the mixture heated at 165° C. for 15 hours. The mixture was allowed to cool and treated with saturated aqueous potassium fluoride solution at ambient temperature. The resulting solids were removed by filtration and washed with 20% methanol in DCM and water. The filtrate was filtered through a pad of celite, washing with 20% methanol in DCM. The layers were separated, the aqueous phase extracted into 20% methanol in DCM, and the combined organic phases concentrated in vacuo. The residue was dissolved in AcOH with sonication and heating, filtered hot, and allowed to cool. The resulting suspension was treated with water and then filtered to collect the tan-gray solid, which was redissolved in DMF and purified by preparative HPLC [2-60% MeCN/water modified with 0.1% ammonium hydroxide] to afford a tan solid (43.5 mg, 45%). 1H NMR (400 MHz, DMSO-D6): 9.29 (d, J=2.2 Hz, 1H), 9.26 (d, J=2.2 Hz, 1H), 9.03 (m, 1H), 8.97 (m, 1H), 8.28 (m, 1H), 7.43 (m, 1H). LCMS (Method D): RT=8.29 min, M+H+=262.

reactant | 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.369 mmol, 101 mg | BrC1=CC2=C(NC3=C2C=C(N=C3)C#N)N=C1 | C11H5BrN4
reactant | lithium chloride | 1.11 mmol, 46.9 mg | [Cl-].[Li+]
reactant | DIPEA | 0.922 mmol, 161 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(tri-n-butylstannyl)oxazole | 1.11 mmol, 232 μL | C(CCC)[Sn](C=1OC=CN1)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | DMF | 0.63 mL | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 18.4 μmol, 21.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(Oxazol-2-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 43.5 mg, 45% | O1C(=NC=C1)C1=CC2=C(NC3=C2C=C(N=C3)C#N)N=C1 | C14H7N5O
